* C:\Repositorio\SAPS_Gonzalez_C1_2025\DesignFiles\SPICE Files\LTspice\ACAnalysis.asc
* Generated by LTspice 24.1.4 for Windows.
VIN IN 0 SINE(0 3.26 1) AC 1
V2 Vp 0 3.3
V3 Vn 0 -3.3
V1 Vref 0 0
X§STAGE1 IN OUT1 Vp Vn Vref StageA_LowPassFirstOrder_LT6004
X§STAGE2 OUT1 OUT Vp Vn Vref StageB_LowPassSallenKey_LT6004

* block symbol definitions
.subckt StageA_LowPassFirstOrder_LT6004 IN OUT V+ V- REF
R1 N001 IN 27k
C1 N001 REF 470n
X§U1 N001 OUT V+ V- OUT LT6003
.ends StageA_LowPassFirstOrder_LT6004

.subckt StageB_LowPassSallenKey_LT6004 IN OUT V+ V- REF
R2 N002 N001 100k
R1 N001 IN 56k
C2 N002 REF 100n
C1 OUT N001 220n
X§U1 N002 OUT V+ V- OUT LT6003
.ends StageB_LowPassSallenKey_LT6004

.AC DEC 100 1 300
.save V(*?*) I(*?*)
* If you're having trouble with simulation try the following:\n \n- Ensure that LTspice circuit folder is unzipped.  LTspice won't \nbe able to locate subcircuits if the folders are still zipped.\n \n- Update LTspice - devices that have been recently added to LTspice\nwon't be available unless you update by clicking Tools -> Sync Release.
.lib LTC5.lib
.backanno
.end
